US08791102B2
Proceeding as in Reference 5, but substituting 4-(4-fluorophenoxy)-2-methylaniline and (S)-3-(benzyloxy)-2-(tert-butoxycarbonylamino)propanoic acid, gave (S)-2-amino-3-(benzyloxy)-N-(4-(4-fluorophenoxy)-2-methylphenyl)propanamide (613 mg, 58%).

reactant | 4-(4-fluorophenoxy)-2-methylaniline | FC1=CC=C(OC2=CC(=C(N)C=C2)C)C=C1 | C13H12FNO
reactant | (S)-3-(benzyloxy)-2-(tert-butoxycarbonylamino)propanoic acid | C(C1=CC=CC=C1)OC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C15H21NO5
product | (S)-2-amino-3-(benzyloxy)-N-(4-(4-fluorophenoxy)-2-methylphenyl)propanamide | 613 mg, 58% | N[C@H](C(=O)NC1=C(C=C(C=C1)OC1=CC=C(C=C1)F)C)COCC1=CC=CC=C1 | C23H23FN2O3
